US05698696
A mixture of trimethylhydroquinone (60.87 g, 0.4 mol), dimethylsulfate (151.36 g, 1.2 mol) and potassium carbonate (221 g, 1.6 mol) in acetone (1.6 L) is refluxed for three days under nitrogen. After cooling, 10% sodium hydroxide (400 mL) is added and most of the acetone is evaporated. The black mixture is taken up in heptane (800 mL), the organic phase is separated and washed with 10% sodium hydroxide (2×200 mL), water (200 mL) and brine (200 mL). The solvent is dried (magnesium sulfate) and evaporated under reduced pressure to give a yellow oil. Purification on a small pad of silica gel eluting with heptane/ethyl acetate 95:5 gave 57.4 g (80%) of 1,4-dimethoxy-2,3,5-trimethylhydroquinone as a colorless oil which slowly crystallized.

reactant | trimethylhydroquinone | 0.4 mol, 60.87 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | dimethylsulfate | 1.2 mol, 151.36 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 1.6 mol, 221 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 400 mL | [OH-].[Na+]
solvent | acetone | 1.6 L | CC(=O)C | C3H6O
product | 1,4-dimethoxy-2,3,5-trimethylhydroquinone | 57.4 g, 80% | COC1(O)C(=C(C(O)(C(=C1)C)OC)C)C | C11H18O4
